Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[O:8][C:9]([H:10])[H:11]>>[C:1][C@@:2]1([C:3]([H:4])([H:5])[O:6][H:7])[O:8][C:9]1([H:10])[H:11],-0.2285654880889999
[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7][O:8][H:9])[O:10][H:11]>>[C:1]=[C:2]([H:3])[H:4].[C:5](\[H:6])(=[C:7]\[O:8][H:9])[O:10][H:11],-0.329768860309
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[O:4],0.76072843505
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-2.3497630938900005
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:6]([H:7])([H:8])=[C:9][O:10][H:11].[H:1][C:2][O:3][C:4][H:5],3.11091764309
[C:3]([H:4])=[C:5]([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12],-6.63505207327
[H:1][O:2][C:3]([C:4][O:5][C:6]([H:7])[H:8])=[C:10]([H:11])[H:12].[H:9]>>[H:1][O:2][C:3]([C:4][O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12],-4.41604205858
[O:1][C:2]([C:3]([H:4])([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:11]([H:12])([H:13])[O:14][H:15].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],0.264969054872
[C:1][C:2][O:3].[C:4]([H:5])([H:6])=[C:7][O:8][H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],0.483648767261
[O:1]=[C:2]=[C:3][C:4][O:5][H:6]>>[H:6].[O:1][C:2]#[C:3][C:4][O:5],0.450587759798
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:6],2.9182383717
[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10]/[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-4.90960982572
[H:4].[O:1][C:2][C:3]#[C:5][O:6]>>[O:1]=[C:2][C:3]([H:4])=[C:5]=[O:6],-1.4969274983200005
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:13]([O:12])([H:14])[H:15]>>[H:1][C:2]([H:3])[C@:4]1([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[O:12][C:13]1([H:14])[H:15],0.00880446893007
[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3](=[O:4])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11],-2.17680134879
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15].[H:3],5.355652910380001
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][H:7],5.64882778835
[C:1].[C:2]([H:3])([H:4])[C:5](=[O:6])[H:7]>>[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[H:7],-3.5031596616000003
[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1].[O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],3.65429327466
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13],3.91758006434
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:5][C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14].[H:4],1.9652516987
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:8]([H:9])([H:10])[H:11].[O:6][H:7]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-5.84722835865
[C:1]#[C:2][C:3]([H:4])=[C:5]([H:6])[H:7].[O:8]=[C:9][H:10]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10],0.429447763421
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14].[H:5],4.1905267154
[H:1][O:2]/[C:3]([H:4])=[C:6]/[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-1.70455924783
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13],-1.26360216409
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],4.615881153219999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])([H:6])([C:7])[H:11].[H:1][C:2]#[C:3][C:8]([H:9])[H:10],3.03863520743
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-1.93443803975
